US06825208B2
2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide
Example 240 was prepared according to the protocol described for example 235 from 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid (example 235 step a) and 2-pyrrolidin-1-yl-ethylamine. Mass Spectrum: 632 (M+1).

reactant | 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid | C(N)(=N)C=1C=C2C3C(C(NC2=CC1)C1=C(C=C(C(=C1)OC)O)C1=C(C=C(C=C1)C(=O)O)OC)CC1=CC=CC=C13 | C32H29N3O5
reactant | 2-pyrrolidin-1-yl-ethylamine | N1(CCCC1)CCN | C6H14N2
product | 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid (2-pyrrolidin-1-yl-ethyl)-amide | N1(CCCC1)CCNC(=O)C1=CC(=C(C=C1)C1=C(C=C(C(=C1)O)OC)C1NC2=CC=C(C=C2C2C1CC1=CC=CC=C12)C(N)=N)OC | C38H41N5O4
